US04367238
A solution of ethyl 2-cyano-2-[2-methoxy-3-(2-chlorobenzenesulfonyl)phenyl]propionate (3.6 g) in hydriodic acid (58%, 10 ml) and glacial acetic acid (30 ml) was refluxed under heating for 21 hours. After cooling, the reaction mixture was concentrated under reduced pressure. To the residue was added dil. aqueous sodium hydrogen sulfite, and the mixture was extracted with diethyl ether. The extract was washed with dil. aqueous sodium hydrogen sulfite and water in turn, dried and evaporated under reduced pressure. To the oily residue was added acetic anhydride (5 ml), and the mixture was refluxed under heating for 10 minutes and then evaporated under reduced pressure. The resultant residue was crystallized with ethanol to give 3-methyl-7-(2-chlorobenzenesulfonyl)-2,3-dihydrobenzofuran-2-one (2.2 g), mp. 94°-96° C.

reactant | ethyl 2-cyano-2-[2-methoxy-3-(2-chlorobenzenesulfonyl)phenyl]propionate | 3.6 g | C(#N)C(C(=O)OCC)(C)C1=C(C(=CC=C1)S(=O)(=O)C1=C(C=CC=C1)Cl)OC | C19H18ClNO5S
solvent | hydriodic acid | 10 ml | I | HI
solvent | acetic acid | 30 ml | C(C)(=O)O | C2H4O2
product | 3-methyl-7-(2-chlorobenzenesulfonyl)-2,3-dihydrobenzofuran-2-one | 2.2 g | CC1C(OC2=C1C=CC=C2S(=O)(=O)C2=C(C=CC=C2)Cl)=O | C15H11ClO4S
